US04485169
143 g of 6-carboxymethyl-4-hydroxy-1,3,3a,7-tetraazaindene prepared in Synthesis Example 1 and 98 g of vinylbenzylamine were dissolved in 1 l of dimethylformamide with stirring at room temperature. To the solution, 152 g of N,N-dicyclohexylcarbodiimide was added dropwise. After addition, the mixture was stirred at room temperature for 6 hours to separate white crystals (N,N-dicyclohexylurea). After the reaction, the separated crystals were filtered off and the filtrate was poured into 2 l of water to separate white crystals. The separated crystals were filtered out and recrystallized from acetonitrile to obtain 180 g of the desired 4-hydroxy-6-(N-vinylbenzylcarbamoylmethyl)-1,3,3a,7-tetraazaindene.

reactant | 6-carboxymethyl-4-hydroxy-1,3,3a,7-tetraazaindene | 143 g | C(=O)(O)CC=1C=C(N2N=CN=C2N1)O | C7H6N4O3
reactant | vinylbenzylamine | 98 g | C(=C)NCC1=CC=CC=C1 | C9H11N
solvent | dimethylformamide | 1 l | CN(C=O)C | C3H7NO
product | 4-hydroxy-6-(N-vinylbenzylcarbamoylmethyl)-1,3,3a,7-tetraazaindene | 180 g | OC=1N2N=CN=C2N=C(C1)CC(N(C=C)CC1=CC=CC=C1)=O | C16H15N5O2
